US07338958B2
Production of (RS)-S-[4-({5-bromo-4-[(R)-(2-hydroxy-1,2-dimethylpropyl)amino]pyrimidin-2-yl}amino)phenyl]-S-cyclopropylsulfoximide
50 mg of (RS)-S-[4-({5-bromo-4-[(R)-(2-hydroxy-1,2-dimethylpropyl)amino]-pyrimidin-2-yl}amino)phenyl]-S-cyclopropyl-N-[2-(trimethylsilyl)ethylsulfonyl]-sulfoximide is dissolved in 1 ml of tetrahydrofuran and mixed with 0.3 ml of a 1 M solution of tetrabutylammonium fluoride in tetrahydrofuran. The mixture is stirred for 3 days at 50° C. and purified by flash chromatography (dichloromethane-dichloromethane/ethanol 9:1). 10 mg (28% of theory) of the product is obtained.

reactant | (RS)-S-[4-({5-bromo-4-[(R)-(2-hydroxy-1,2-dimethylpropyl)amino]-pyrimidin-2-yl}amino)phenyl]-S-cyclopropyl-N-[2-(trimethylsilyl)ethylsulfonyl]-sulfoximide | 50 mg | BrC=1C(=NC(=NC1)NC1=CC=C(C=C1)S(=O)(=NS(=O)(=O)CC[Si](C)(C)C)C1CC1)N[C@@H](C(C)(C)O)C | C23H36BrN5O4S2Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | (RS)-S-[4-({5-bromo-4-[(R)-(2-hydroxy-1,2-dimethylpropyl)amino]pyrimidin-2-yl}amino)phenyl]-S-cyclopropylsulfoximide | BrC=1C(=NC(=NC1)NC1=CC=C(C=C1)S(=O)(=N)C1CC1)N[C@@H](C(C)(C)O)C | C18H24BrN5O2S
